US05859007
2-[3-(1-Benzyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide
To a stirring solution of 490 mg (1.08 mmol) of 2-(2,4-Dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide, prepared as in Intermediate 4, in 12 mL DMF at 0° C. is added dropwise over 5 min 2.35 mL (1.18 mmol, 1.1 equiv) of a 0.5M solution of KN(TMS)2 in toluene. The resulting solution is stirred 10 min, then a solution of 355 mg (1.18 mmol, 1.1 equiv) of 1-Benzyl-3-bromomethyl-1H-indazole in 3 mL DMF is added. The resulting solution is stirred 4.5 h at RT and then quenched with 5 mL of H2O. The reaction mixture is then poured into 50 mL of EtOAc and extracted with H2O (2×50 mL). The organic layer is separated, dried (MgSO4), and the solvents removed in vacuo. Purification of the material by silica gel flash column chromatography using hexane/EtOAc 3/2 as eluent followed by lyophilization in acetonitrile/H2O afforded 620 mg of the title compound as a white amorphous solid: 1H NMR (CDCl3, 300 MHz) δ7.86 (d, 1H, J=8.1), 7.40 (d, 1H, J=7.9), 7.33-6.88 (m, 20H), 5.43 (s, 2H), 5.00 (m, 1H), 4.25 (m, 3H), 3.85 (m,4H), 3.58 (dd, 1H, J=5.1, 16.0), 1.06 (d, 6H, J=6.6); low resolution MS (FAB)m/e 678 (MH+), 677 (M+),

reactant | 2-(2,4-Dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 1.08 mmol, 490 mg | O=C1CC(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C27H27N3O4
reactant | 1-Benzyl-3-bromomethyl-1H-indazole | 1.18 mmol, 355 mg, 1.1 equiv | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)CBr | C15H13BrN2
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-[3-(1-Benzyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 620 mg | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C42H39N5O4
